datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])[H:7])([H:5])[H:6].[C:11]([C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])([H:7])[C:11]([C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15])([H:5])[H:6],58.2413
[N:0]([O:1])([H:2])[H:3].[O:4][N:5]=[O:6]>>[H:2][O:4][N:5]=[O:6].[N:0](=[O:1])[H:3],16.90336
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[N:15]([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][N:15]([H:16])[H:17],22.5936
[C:0]([O:1])([H:2])([H:3])[H:4].[C:5](=[O:6])[H:7]>>[C-:5]#[O+:6].[C:0]([O:1][H:7])([H:2])([H:3])[H:4],0.0
[C:0]([C:1]([S:2][H:7])[H:6])([H:3])([H:4])[H:5].[S:8]([H:9])[H:10]>>[C:0]([C:1]([S:2][H:7])([H:6])[H:9])([H:3])([H:4])[H:5].[S:8][H:10],-0.4184
[O:0].[c:1]1([H:19])[c:2]([H:20])[c:3]([H:21])[c:4]2[c:5]([c:6]1[H:22])[c:7]([H:23])[c:8]([H:24])[c:9]1[c:10]3[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]([H:28])[c:15]3[c:16]([H:29])[c:17]([H:30])[c:18]21>>[O:0][H:23].[c:1]1([H:19])[c:2]([H:20])[c:3]([H:21])[c:4]2[c:5]([c:6]1[H:22])[c:7][c:8]([H:24])[c:9]1[c:10]3[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]([H:28])[c:15]3[c:16]([H:29])[c:17]([H:30])[c:18]21,61.5271
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19]([C:20](=[C:21]([H:25])[H:26])[H:24])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[C:19]([C:20](=[C:21]([H:25])[H:26])[H:24])([H:22])[H:23])[H:9],40.8777
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[C:35]([H:36])([H:37])[H:38]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13].[H:11][C:35]([H:36])([H:37])[H:38],29.928152
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:16])[H:17])[H:15])[C:6]([C:7](=[C:8]([C:9]([C:10]([H:22])([H:23])[H:24])[C:11]#[C:12][H:25])[H:21])[H:20])([H:18])[H:19])[H:14])[H:13]>>[C:0](#[C:1][C:2]1([H:14])[C:3]([C:4](=[C:5]([H:16])[H:17])[H:15])[C:6]([H:18])([H:19])[C:7]([H:20])=[C:8]([H:21])[C:9]1([C:10]([H:22])([H:23])[H:24])[C:11]#[C:12][H:25])[H:13],108.156
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15](=[C:16]([c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32])[H:27])[H:26])([H:23])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[C:15]([C:14]([H:23])([H:24])[H:25])([C:16]([c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32])[H:27])[H:26])[H:7])([H:5])[H:6],45.3127
[C:0](=[C:1][C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7]>>[C:0](=[C:1]1[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])[C:5]1([H:13])[H:14])([H:6])[H:7],43.5136
[C:0]([C:1]([O:2][O:3][H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[H:10]>>[C:0]([C:1]([O:2][O:3][H:9])[H:8])([H:4])([H:5])[H:6].[H:7][H:10],7.78224
[C:0](#[C:1][c:2]1[c:3]([H:15])[c:4]2[c:5]3[c:6]([c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]3[c:11]1[H:19])[C:12]([H:20])=[C:13]2[H:21])[H:14].[O:22][H:23]>>[C:0](#[C:1][c:2]1[c:3]([H:15])[c:4]2[c:5]3[c:6]([c:7]([H:16])[c:8][c:9]([H:18])[c:10]3[c:11]1[H:19])[C:12]([H:20])=[C:13]2[H:21])[H:14].[H:17][O:22][H:23],6.091904
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[H:15]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])[H:11])([H:5])[H:6].[H:10][H:15],0.866088
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]([H:12])([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]1([C:6]([H:18])[H:19])[C:7]([H:20])([H:21])[H:22],25.5224
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15](=[C:16]([C:17]([C:18]([H:24])([H:25])[H:26])[C:19](=[C:20]([H:28])[H:29])[H:27])[H:23])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[C:17]([C:16](=[C:15]([H:21])[H:22])[H:23])([C:18]([H:24])([H:25])[H:26])[C:19](=[C:20]([H:28])[H:29])[H:27])[H:7],64.6846
